US07432288B2
Methyl 4-[(3-chloro-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl)methyl]benzoate
A solution of 3-chloro-4-phenylfuran-2,5-dione (0.24 mmol, 50 mg) and methyl 4-(aminomethyl)benzoate (0.24 mmol, 40 mg) in glacial acetic acid (1 mL) was heated in a microwave reactor at 120° C. for two min. After cooling, the solvent was evaporated at reduced pressure. The crude product was used without purification.

reactant | 3-chloro-4-phenylfuran-2,5-dione | 0.24 mmol, 50 mg | ClC=1C(OC(C1C1=CC=CC=C1)=O)=O | C10H5ClO3
reactant | methyl 4-(aminomethyl)benzoate | 0.24 mmol, 40 mg | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | Methyl 4-[(3-chloro-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl)methyl]benzoate | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC1=CC=C(C(=O)OC)C=C1)=O | C19H14ClNO4
